US09284284B2
g) 5-{2-Fluoro-5-[(furan-2-ylmethyl)-amino]-phenyl}-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine
A solution of (5-{2-fluoro-5-[(furan-2-ylmethyl)-amino]-phenyl}-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester (29 mg, 0.072 mmol) in 4M HCl/dioxane (0.719 ml, 2.88 mmol) was stirred at rt for 2 h, then heated at 50° C. for 2 h. TFA (0.005 ml, 0.072 mmol) was added and stirring at 50° C. was continued for 7 h. The reaction mixture was quenched with water and diluted with EtOAc. The phases were separated and the aq. layer was twice reextracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated to leave the crude title compound that was purified by RP-HPLC (Waters SunFire C18 column, 5 μM, 19×150 mm, gradient 10 to 90% ACN+0.1% TFA) and obtained as a free base after filtration over an SCX cartridge.

reactant | (5-{2-fluoro-5-[(furan-2-ylmethyl)-amino]-phenyl}-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | 0.072 mmol, 29 mg | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=C(C=CC(=C1)NCC=1OC=CC1)F)=O | C21H26FN3O4
reactant | HCl dioxane | 2.88 mmol, 4M, 0.719 ml | Cl.O1CCOCC1
reactant | TFA | 0.072 mmol, 0.005 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-{2-Fluoro-5-[(furan-2-ylmethyl)-amino]-phenyl}-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | FC1=C(C=C(C=C1)NCC=1OC=CC1)C1(N=C(COC1)N)C | C16H18FN3O2
